US06881736B1
e) 2-Methyl-5,6,7,8-tetrahydro-1,8-naphthyridine
A mixture of 2-methyl-1,8-naphthyridine (18.5 g, 128 mmole), 10% Pd/C (5 g), and absolute EtOH (150 mL) was shaken under hydrogen (15 psi) on a Parr apparatus. After 24 hr, the mixture was filtered through celite®, and the filter pad was washed sequentially with absolute EtOH and EtOAc. The filtrate was concentrated to dryness to leave the title compound (18.85 g, 99%) as an off-white solid: 1H NMR (300 MHz, CDCl3) δ 7.02 (d, J=7.5 Hz, 1H), 6.34 (d, J=7.5 Hz, 1 H), 4.80 (br s, 1 H), 3.38 (m, 2H), 2.74 (m, 2H), 2.30 (s, 3H), 1.88 (m, 2H); MS (ES) m/e 149 (M+H)+.

reactant | 2-methyl-1,8-naphthyridine | 128 mmole, 18.5 g | CC1=NC2=NC=CC=C2C=C1 | C9H8N2
catalyst | Pd/C | 5 g | [Pd] | Pd
solvent | EtOH | 150 mL | CCO | C2H6O
product | 2-Methyl-5,6,7,8-tetrahydro-1,8-naphthyridine | 18.85 g, 99% | CC1=NC=2NCCCC2C=C1 | C9H12N2
